US06369055B1
A solution of benzyloxybenzaldehyde (10.6 g, 50.0 mmol) and dimethyl malonate (6.6 g, 50.0 mmol) in benzene (100 mL) containing a catalytic quantity of pipiridinium acetate was refluxed in a Dean-Stark trap for 16 h. After cooling to room temperature, the solution was concentrated. The residue was crystallised from ethyl acetate/heptane to give 14.5 g (90%) of 2-(4-benzyloxy-benzylidene)-malonic acid dimethyl ester: mp 134-135° C. 1H NMR (300 MHz, CDCl3): δ3.82 (s, 3H), 3.86 (s, 3H), 5.08 (s, 2H), 6.95 (d, 2H), 7.30-7.45 (m, 7H), 7.70 (s, 1H)

reactant | benzyloxybenzaldehyde | 50.0 mmol, 10.6 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1 | C14H12O2
reactant | dimethyl malonate | 50.0 mmol, 6.6 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | acetate | C(C)(=O)[O-]
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2-(4-benzyloxy-benzylidene)-malonic acid dimethyl ester | 14.5 g, 90% | COC(C(C(=O)OC)=CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C19H18O5
